US08138347B2
To a solution of 5-bromo-2-(methyloxy)-3-nitropyridine (45 g, 193 mmol) in ethyl acetate (1 L) was added tin(II) chloride dihydrate (174 g, 772 mmol). The reaction mixture was heated at reflux for 4 h. LC/MS indicated some starting material remained, so added 20 mol % tin (II) chloride dihydrate and continued to heat at reflux. After 2 h, the reaction was allowed to cool to ambient temperature and concentrated in vacuo. The residue was treated with 2 N sodium hydroxide and the mixture stirred for 1 h. The mixture was then with methylene chloride (1 L), filtered through Celite, and washed with methylene chloride (500 mL). The layers were separated and the organics dried over magnesium sulfate and concentrated to give 5-bromo-2-(methyloxy)-3-pyridinamine (23 g, 113 mmol, 58.7% yield). The product was used crude in subsequent reactions. MS(ES)+ m/e 201.9, 203.9 [M+H]+.

reactant | 5-bromo-2-(methyloxy)-3-nitropyridine | 193 mmol, 45 g | BrC=1C=C(C(=NC1)OC)[N+](=O)[O-] | C6H5BrN2O3
reactant | tin(II) chloride dihydrate | 772 mmol, 174 g | O.O.[Sn](Cl)Cl
solvent | ethyl acetate | 1 L | C(C)(=O)OCC | C4H8O2
product | 5-bromo-2-(methyloxy)-3-pyridinamine | 113 mmol, 23 g, 58.7% yield | BrC=1C=C(C(=NC1)OC)N | C6H7BrN2O
